US07034023B2
Step 3: Preparation of 2-(4-methoxy-2-methylphenyl)-3-methyl-1H-pyrrol-1-amine
To a suspension of 2-[2-(4-methoxy-2-methylphenyl)-3-methyl-1H-pyrrol-1-yl]-1H-isoindole-1,3(2H)-dione (0.40 g, 1.15 mmol) in EtOH was added hydrazine monohydrate (0.14 mL, 2.89 mmol) at room temperature. The reaction mixture was heated at reflux for 1 h. After cooling down to room temperature, the mixture was filtered. The filtrate was concentrated in vacuo to dryness and the residue was subjected to column chromatography (silica gel, 1/4 EtOAc/heptane) to give 0.233 g (93%) of clear oil as the title compound: 1H NMR (400 MHz, CDCl3) δ 7.17 (d, J=8 Hz, 1H), 6.89 (s, 1H), 6.84–6.79 (m, 2H), 6.00 (s, 1H), 3.87 (s, 3H), 2.16 (s, 3H), 1.93 (s, 3H); MS m/z 217.1 (M++H).

reactant | 2-[2-(4-methoxy-2-methylphenyl)-3-methyl-1H-pyrrol-1-yl]-1H-isoindole-1,3(2H)-dione | 1.15 mmol, 0.40 g | COC1=CC(=C(C=C1)C=1N(C=CC1C)N1C(C2=CC=CC=C2C1=O)=O)C | C21H18N2O3
reactant | hydrazine monohydrate | 2.89 mmol, 0.14 mL | O.NN
solvent | EtOH | CCO | C2H6O
product | 2-(4-methoxy-2-methylphenyl)-3-methyl-1H-pyrrol-1-amine | 0.233 g, 93% | COC1=CC(=C(C=C1)C=1N(C=CC1C)N)C | C13H16N2O
